US05362725
Methyl 2-(8-bromo-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)ethoxyacetate
Following a procedure similar to that described in Example 1, but using 8-bromo-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine and methyl 2-chloroethoxyacetate, the title compound was obtained in a yield of 38%.

reactant | 8-bromo-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | BrC=1C=CC2=C(CC3=C(C4N2CCNC4)C=CC=C3)C1 | C17H17BrN2
reactant | methyl 2-chloroethoxyacetate | ClCCOCC(=O)OC | C5H9ClO3
product | Methyl 2-(8-bromo-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)ethoxyacetate | yield of 38% | BrC=1C=CC2=C(CC3=C(C4N2CCN(C4)CCOCC(=O)OC)C=CC=C3)C1 | C22H25BrN2O3
